US07205408B2
(a) Methyl 6-amino-3,5-dibromopyridine-2-carboxylate
A solution of methyl 6-amino-3-bromopyridine-2-carboxylate (20.62 g) (T. R. Kelly and F. Lang, J. Org. Chem. 61, 1996, 4623–4633) in chloroform (570 ml) was treated dropwise over 2 hours with bromine (4.62 ml) in chloroform (115 ml) and stirred 16 hours. The solution was washed with excess aqueous sodium bicarbonate, dried and evaporated. Crystallisation from EtOAc/hexane gave a solid (13.5 g).

reactant | methyl 6-amino-3-bromopyridine-2-carboxylate | 20.62 g | NC1=CC=C(C(=N1)C(=O)OC)Br | C7H7BrN2O2
reactant | bromine | 4.62 ml | BrBr | Br2
solvent | chloroform | 570 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 115 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 6-amino-3,5-dibromopyridine-2-carboxylate | 13.5 g | NC1=C(C=C(C(=N1)C(=O)OC)Br)Br | C7H6Br2N2O2
